US04112112
Step A: Preparation of 2-cyano-6,11-dihydro-11-(N-2,2,2-trichloroethoxycarbonyl-3-methylaminopropylidene)-5H-pyrrolo[2,1-b][3]benzazepine
2-Cyano-6,11-dihydro-11-(3-dimethylaminopropylidene)-5H-pyrrolo[2,1-b][3]benzazepine (5 g., 17.2 mmoles) and 2,2,2-trichloroethylchloroformate (4 g., 18.8 mmoles) in 100 ml. benzene were refluxed for 18 hours. The mixture was poured onto water, washed with dilute hydrochloric acid and then with water, dried over sodium sulfate and concentrated under vacuum to yield 7.1 g. of dark red oil. It was adsorbed on 250 g. silica gel and eluted with 2 liters benzene. The eluate was discarded.

reactant | 2-Cyano-6,11-dihydro-11-(3-dimethylaminopropylidene)-5H-pyrrolo[2,1-b][3]benzazepine | 17.2 mmoles, 5 g | C(#N)C=1C=C2C(C3=C(CCN2C1)C=CC=C3)=CCCN(C)C | C19H21N3
reactant | 2,2,2-trichloroethylchloroformate | 18.8 mmoles, 4 g | ClC(COC(=O)Cl)(Cl)Cl | C3H2Cl4O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-cyano-6,11-dihydro-11-(N-2,2,2-trichloroethoxycarbonyl-3-methylaminopropylidene)-5H-pyrrolo[2,1-b][3]benzazepine | C(#N)C=1C=C2C(C3=C(CCN2C1)C=CC=C3)=CCCN(C(=O)OCC(Cl)(Cl)Cl)C | C21H20Cl3N3O2
